* G:\My Drive\21 UTN\01 - Aplicada 3\jupyterEAIII\Adaptadores\Ej1.1_Adap2.asc
Cgp Vpri 0 {Cgp}
R1 Vpri 0 200.5
C1 Vpri 0 {C1}
Lpri Vpri 0 {Lpri}
Lsec Vsec 0 {Lsec}
R2 Vsec 0 1000
I1 Vpri 0 AC 1.9975e-05
.ac dec 10000 190e6 210e6
K1 Lpri Lsec 1
.params C1=158.5596p
.params Cgp=0.198447p
.params Lpri=3.98882n
.params Lsec=19.89422n
* .params C1=158p
* .params Cgp=0.2p
.backanno
.end
